US07973026B2
Step 6: Methyl (7R)-7-{[(benzyloxy)carbonyl]amino}-13-cyclohexyl-10-methyl-7,8-dihydro-6H-thieno[2′,3′:4,5]pyrrolo[1,2-e][1,5]benzoxazocine-11-carboxylate
Methyl 5-{2-[((2S)-2-{[(benzyloxy)carbonyl]amino}-3-bromopropyl)oxy]phenyl}-6-cyclohexyl-3-methyl-4H-thieno[3,2-b]pyrrole-2-carboxylate was dissolved in DMF (0.034M) and NaH (1.1 eq., 60% in mineral oil) was added. The mixture was left stirring at RT. After 30 min all volatiles were evaporated i. vac. The residual material was purified by chromatography (PE:EtOAc, 8.5:1.5). The product was obtained as a colourless solid (45%). MS (ES+) m/z 559 (M+H)+.

reactant | Methyl 5-{2-[((2S)-2-{[(benzyloxy)carbonyl]amino}-3-bromopropyl)oxy]phenyl}-6-cyclohexyl-3-methyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | C(C1=CC=CC=C1)OC(=O)N[C@@H](COC1=C(C=CC=C1)C1=C(C2=C(N1)C(=C(S2)C(=O)OC)C)C2CCCCC2)CBr | C32H35BrN2O5S
reactant | NaH | 1.1 eq. | [H-].[Na+]
solvent | DMF | 0.034M | CN(C)C=O | C3H7NO
product | Methyl (7R)-7-{[(benzyloxy)carbonyl]amino}-13-cyclohexyl-10-methyl-7,8-dihydro-6H-thieno[2′,3′:4,5]pyrrolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 45% | C(C1=CC=CC=C1)OC(=O)N[C@H]1COC2=C(C=3N(C1)C1=C(C3C3CCCCC3)SC(=C1C)C(=O)OC)C=CC=C2 | C32H34N2O5S
